US06096771
(a) 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-7-methyl-4-methylthio-1,2-benzisoxazole
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-7-methyl-1,2-benzisoxazole (0.15 g) in tetrahydrofuran (20 ml) was added butyl lithium (0.75 ml, 1.6M hexane solution) dropwise with stirring at -70° C. under nitrogen atmosphere, and the mixture was stirred at the same temperature for 15 minutes, then followed by addition of dimethyldisulphide (0.11 g). The reaction mixture was poured into ice water (40 ml), extracted with ethyl acetate (twice each with 40 ml) and the combined extracts were dried over anhydrous magnesium sulphate and filtered. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (9/1) as an eluent, to give the title compound (0.15 g, 88%) as a colorless powder.

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-7-methyl-1,2-benzisoxazole | 0.15 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=CC=C2C | C15H20N2O4
reactant | butyl lithium | 1.6M, 0.75 ml | C(CCC)[Li]
reactant | dimethyldisulphide | 0.11 g | CSSC | C2H6S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-7-methyl-4-methylthio-1,2-benzisoxazole | 0.15 g, 88% | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=CC=C2C)SC | C16H22N2O4S
